US06989392B2
8-(1-methyl-4-(quinolin-7-yloxy)butoxy)quinolin-2-amine
The title compound was prepared according to the procedure described in Example 86 substituting 7-hydroxyquinoline for 8-hydroxyquinaldine. 1H NMR (500 MHz, CDCl3) δ ppm 8.99 (br d, 1H), 8.61 (d, 1H), 7.88 (d, 1H), 7.83 (d, 1H), 7.77 (d, 1H), 7.65 (dd, 1H), 7.30 (m, 2H), 7.19 (m, 1H), 7.14 (d, 1H), 7.01 (d, 1H), 4.73 (m, 1H), 4.22–4.42 (m, 2H), 2.19 (m, 2H), 2.00 (m, 2H), 1.48 (d, 3H); MS (DCI/NH3) m/z 373 [M+H]+.

reactant | 7-hydroxyquinoline | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | 8-hydroxyquinaldine | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | NH3 | N | H3N
product | 8-(1-methyl-4-(quinolin-7-yloxy)butoxy)quinolin-2-amine | CC(CCCOC1=CC=C2C=CC=NC2=C1)OC=1C=CC=C2C=CC(=NC12)N | C23H23N3O2
